US07534797B2
7-Cyclobutyl-5-(2-pyridin-2-yl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine was prepared using the same procedures described as described for 7-Cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine, except 2-pyridin-2-yl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline was used in place of 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline; 3H NMR (DMSO-d6, 400 MHz) δ 1.88-2.00 (m, 1H), 2.02-2.16 (m, 1H); 2.32-2.44 (m, 2H); 2.44-2.58 (m, 2H); 4.00-4.16 (m, 1H); 6.76 (brs, 2H); 7.45-7.59 (m, 1H); 7.94 (s, 1H); 7.94-8.05 (m, 2H); 8.13 (d, J=8.4 Hz, 1H); 8.24-8.32 (m, 1H); 8.51-8.68 (m, 3H); 8.72-8.80 (m, 1H); MS (ES+): m/z 394.08 (100) [MH+], HPLC: tR=3.14 min (MicromassZQ, polar—5 min).

reactant | 7-Cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C24H20N6
reactant | 2-pyridin-2-yl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | N1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C20H21BN2O2
product | 7-Cyclobutyl-5-(2-pyridin-2-yl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)C2=CC=C1C=CC(=NC1=C2)C2=NC=CC=C2 | C23H19N7
